US09359362B2
(rac)-Ethyl 7-(4-cyanophenyl)-2-methoxy-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate
(rac)-Ethyl 7-(4-cyanophenyl)-2-methoxy-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate (185 mg, 0.55 mmol), 3-(trifluoromethyl)phenylboronic acid (207 mg, 1.09 mmol, 2 eq.), anhydrous copper(II) acetate (198 mg, 1.09 mmol, 2 eq.) and molecular sieve (80 mg, 4 Å) were initially charged. Under an atmosphere of argon protective gas, abs. dichloromethane (12 ml), pyridine (176 μl, 2.18 mmol, 4 eq.) and triethylamine (152 μl, 1.09 mmol, 2 eq.) were added. After 24 h of stirring, the mixture was filtered through kieselguhr and the filtrate was concentrated under reduced pressure. The residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.05% TFA). After lyophilization, the product was obtained as a solid (103 mg, 39% of theory).

reactant | (rac)-Ethyl 7-(4-cyanophenyl)-2-methoxy-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | 0.55 mmol, 185 mg | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)OC)C)C(=O)OCC | C17H17N5O3
reactant | 3-(trifluoromethyl)phenylboronic acid | 1.09 mmol, 207 mg, 2 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 2.18 mmol, 176 μl, 4 eq. | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 1.09 mmol, 152 μl, 2 eq. | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 1.09 mmol, 198 mg, 2 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | (rac)-Ethyl 7-(4-cyanophenyl)-2-methoxy-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=C(N2)OC)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)OCC | C24H20F3N5O3
